* /Users/phansson/Documents/VMWare_shared/VMWare_SCMDS/LTspice/hemt-noise-4K.asc
V1 Vg 0 -190m
J2 OUT Vg 0 HEMT temp=-220
V2 Vdd 0 1.15
R1 Vdd OUT 1k noiseless
R2 N001 0 50
.model NJF NJF
.model PJF PJF
.lib /Users/phansson/Library/Application Support/LTspice/lib/cmp/standard.jft
.LIB /Users/phansson/work/daq/LTspice/dave/Mylib.lib
.noise V(OUT) V1 dec 100 10 1Meg
* .TEMP -269
.op
* .step param X 1100m 1200m 1m
.backanno
.end
